US06342644B1
A 100 ml capacity autoclave was charged with 1.0 g (6.5 mmol) of pulegol, 5% Pd-carbon (20 mg) and ethyl acetate (5 ml), and the mixture was stirred at 60° C. for 5 hours under a hydrogen pressure of 2 Mpa. After completion of the reaction, the reaction solution was cooled to room temperature and concentrated. A 0.99 g portion of a mixture of menthol:neoisomenthol=91:9 was obtained. The yield was 90%.

reactant | pulegol | 6.5 mmol, 1.0 g | CC1CCC(=C(C)C)C(C1)O | C10H18O
catalyst | Pd carbon | 20 mg | [Pd].[C]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | neoisomenthol | yield was 90% | C[C@@H]1CC[C@@H]([C@@H](C1)O)C(C)C | C10H20O
